US04337081
5-Acetamido-3-Trichloromethyl-1,2,4-Thiadiazole
A solution of 10.9 grams (0.05 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole and 14.0 grams (0.18 mole) acetyl chloride in 200 milliliters xylene was refluxed at about 140° C. for 15 hours. The product precipitated (11.2 grams, 86% yield) after concentration in vacuo to approximately 50% of the original volume. A pure product of m.p. 193° C. was obtained by recrystallization from ethanol.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.05 mole, 10.9 grams | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | acetyl chloride | 0.18 mole, 14.0 grams | C(C)(=O)Cl | C2H3ClO
solvent | xylene | 200 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | 5-Acetamido-3-Trichloromethyl-1,2,4-Thiadiazole | 86% yield | C(C)(=O)NC1=NC(=NS1)C(Cl)(Cl)Cl | C5H4Cl3N3OS
